US07531532B2
4-(4-Amino-2-chlorophenoxy)-2-[(morpholin-4-yl)carbonylamino]pyridine
A crude product of 4-(2-chloro-4-nitrophenoxy)-2-(phenoxycarbonylamino)pyridine (634.8 mg) was dissolved in tetrahydrofuran (6.5 ml), and then morpholine (0.942 ml) was added thereto at room temperature, followed by stirring overnight and evaporating the solvent under a reduced pressure. The resultant residue was dissolved in ethanol (20 ml)-water (5 ml), and then electrolytic iron powder (500 mg) and ammonium chloride (1 g) were added thereto, followed by heating under reflux for 1 hr. The reaction mixture was cooled down to room temperature, and filtered through celite to remove an insoluble portion, which was washed with ethyl acetate-tetrahydrofuran (1:1) and water. The organic layer of the filtrate was separated, washed with water and brine in this order, dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was purified by silica gel column chromatography (eluent; ethyl acetate, then ethyl acetate:methanol=95:5) to provide the titled compound (283.3 mg) as pale yellow powder.

reactant | 4-(2-chloro-4-nitrophenoxy)-2-(phenoxycarbonylamino)pyridine | 634.8 mg | ClC1=C(OC2=CC(=NC=C2)NC(=O)OC2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C18H12ClN3O5
reactant | morpholine | 0.942 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 6.5 ml | O1CCCC1 | C4H8O
product | 4-(4-Amino-2-chlorophenoxy)-2-[(morpholin-4-yl)carbonylamino]pyridine | 283.3 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1)Cl | C16H17ClN4O3
